US06156801
To a solution of 4-[4-(benzyloxy)-phenoxy]-3-nitrobenzyl alcohol (9.43 g, 26.9 mmol) in chloroform (60 ml) was added thionyl chloride (2 ml), followed by stirring at room temperature for 6 hours. After allowing to stand overnight, the reaction solution was washed with water and dried, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography [eluent; hexane - chloroform (1:1)] to give 4-[4-(benzyloxy)-phenoxy]-3-nitrobenzyl chloride (7.63 g).

reactant | 4-[4-(benzyloxy)-phenoxy]-3-nitrobenzyl alcohol | 26.9 mmol, 9.43 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(CO)C=C2)[N+](=O)[O-])C=C1 | C20H17NO5
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[4-(benzyloxy)-phenoxy]-3-nitrobenzyl chloride | 7.63 g | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(CCl)C=C2)[N+](=O)[O-])C=C1 | C20H16ClNO4
